US06657086B2
200 mg (0.8 mmol) of 5-chloro-2-methylsulfonylindan-1-ol were dissolved in 5 ml of dry tetrahydrofuran. The solution was cooled to −70° C., and under an atomosphere of nitrogen, 0.4 ml (0.8 mmol) of lithium diisopropylamine (2 M solution in tetrahydrofuran) was added dropwise. The reaction solution was stirred at −70° C. for 30 min, and 62.2 μl (1 mmol) of methyl iodide were then added. The reaction mixture was warmed to 0° C., water and then ethyl acetate was added, the organic phase was separated off, dried over magnesium sulfate and filtered and the filtrate was concentrated. Chromatographic purification of the residue (silica gel; heptane/ethyl acetate 1/1) gave 5-chloro-2-(propane-2-sulfonyl)indan-1-ol as a wax-like substance.

reactant | 5-chloro-2-methylsulfonylindan-1-ol | 0.8 mmol, 200 mg | ClC=1C=C2CC(C(C2=CC1)O)S(=O)(=O)C | C10H11ClO3S
reactant | lithium diisopropylamine | 0.8 mmol, 2 M, 0.4 ml | C(C)(C)NC(C)C.[Li]
reactant | methyl iodide | 1 mmol, 62.2 μl | CI | CH3I
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-2-(propane-2-sulfonyl)indan-1-ol | ClC=1C=C2CC(C(C2=CC1)O)S(=O)(=O)C(C)C | C12H15ClO3S
